US04471139
(3-Oxo-1-butenyl)mercaptoacetaldehyde
A solution of 3.0 g. (15.7 mmol) of (3-oxo-1-butenyl)mercaptoacetaldehyde dimethylacetal in 30 ml. of 10:1 trifluoroacetic acid/water at 0° was stirred 2 hours, poured into 150 ml. of water and extracted with CHCl3 (4×50 ml.). The CHCl3 was washed with cold aqueous saturated NaHCO3 solution, dried over Na2SO4, filtered and stripped in vacuo to afford 2.1 g. (93%) of the crude mixture of aldehyde double bond isomers (68:32::E to Z). Column chromatography on silica gel using ethyl ether as eluent afforded both isomers in a ratio of 4:1::E:Z. The (Z-3-oxo-1-butenyl)mercaptoacetaldehyde eluted first: Rf 0.45, 1H-NMR (CDCl3) delta 2.25 (s, 3), 3.45 (d, 2, J=3.2 Hz), 6.38 (d, 1, J=9.8 Hz), 6.80 (d, 1, J=9.8 Hz), 9.62 (t, 1, J= 3.2 Hz); IR (KBr) cm-1 1721 (m), 1659 (s); mass spectrum (70 eV) m/e 144.0240 (parent, calcd. for C6H8O2S; 144.0354), 126.0130 (p-H2O, calcd. for C6H6OS; 126.0198), 115.0230 (p-CHO), 97 (p-CHO and --OH2). The E olefin isomer (Rf 0.3) exhibited the following spectral characteristics: 1H-NMR (CDCl3) delta 1.94 (s, 3), 3.38 (d, 2, J=3.2 Hz), 5.85 (d, 1, J=15.9 Hz), 7.24 (d, 1, J=15.9 Hz), 9.35 (t, 1, J=3.2 Hz); IR (film) cm-1 1724 (m), 1660 (s); mass spectrum (70 eV) m/e 144.0242 (parent, calcd. for C6H8O2S: 144.0354), 101.0053 (base, p-CH2CHO, calcd. for C4H5Os; 101.0120).

reactant | (3-oxo-1-butenyl)mercaptoacetaldehyde dimethylacetal | 15.7 mmol | COC(CSC=CC(C)=O)OC | C8H14O3S
reactant | trifluoroacetic acid water | FC(C(=O)O)(F)F.O
solvent | ethyl ether | C(C)OCC | C4H10O
product | (3-Oxo-1-butenyl)mercaptoacetaldehyde | O=C(C=CSCC=O)C | C6H8O2S
